US06096771
(f) 3-(2-Aminoethoxy)pyrido[3,2-d]isoxazole Hydrochloride
To a solvent of 3-(2-aminoethoxy)pyrido[3,2-d]isoxazole dihydrochloride in water (10 ml) was added aqueous 1N sodium hydroxide solution (16 ml) with stirring under ice cooling, and the mixture was then stirred at the same temperature for 5 minutes. The reaction mixture was evaporated under reduced pressure and the title compound (3.2 g, 94%) was obtained as colorless crystals by recrystallizing from methanol-water mixture (1:1).

reactant | 3-(2-aminoethoxy)pyrido[3,2-d]isoxazole dihydrochloride | Cl.Cl.NCCOC1=NOC2=C1C=CC=N2
reactant | sodium hydroxide | 1N, 16 ml | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
product | 3-(2-Aminoethoxy)pyrido[3,2-d]isoxazole Hydrochloride | 3.2 g, 94% | Cl.NCCOC1=NOC2=C1C=CC=N2 | InChI=1S/C8H9N3O2.ClH/c9-3-5-12-8-6-2-1-4-10-7(6)13-11-8;/h1-2,4H,3,5,9H2;1H
